US06767916B2
1-[4-Methyl-7-(prop-2ynyloxy)coumarin-8-yl]-3-(4-fluoro-phenyl)-propen-1-one (See Accompanying Formula Drawing VIB 240)
A solution of KOH 50% (3 ml) is added to an equimolar solution of 4-methyl-7-prop2-ynyloxy-8-acetylcoumarin (1.92 g, 0.0075 mol) and 4-fluorobenzaldehyde (0.93 g, 0.0075 mol) in ethanol 95%; the addition is performed under energetic stirring at room temperature. The reaction is left under stirring for one night and then diluted with water and acidified; the precipitate is separated by filtration and dried under vacuum. The compound is crystallized by ethanol to give 1.2 g of product m.p. 185-186° C., 1H-NMR (CDCl3) δ: 2.43 (d, J=1.2 Hz, 3H), 2.52 (m, 1H), 4.79 (d, J=1.2 Hz, 2H), 6.17 (d, J=1.2 Hz, 1H), 6.96-7.66 (m, 8H).

reactant | KOH | 3 ml | [OH-].[K+]
reactant | 4-methyl-7-prop2-ynyloxy-8-acetylcoumarin | 0.0075 mol, 1.92 g | CC1=CC(OC2=C(C(=CC=C12)OCC#C)C(C)=O)=O | C15H12O4
reactant | 4-fluorobenzaldehyde | 0.0075 mol, 0.93 g | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-[4-Methyl-7-(prop-2ynyloxy)coumarin-8-yl]-3-(4-fluoro-phenyl)-propen-1-one | 1.2 g | CC1=CC(OC2=C(C(=CC=C12)OCC#C)C(C=CC1=CC=C(C=C1)F)=O)=O | C22H15FO4
